US07326699B2
cis-N-{3-[4-Amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-2,2-dimethyl-propionamide is prepared as described in Example 50 using cis-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine and pivaloyl chloride (Fluka, Buchs, Switzerland). Analytical HPLC: tR=7.25 min (Grad 2); ES-MS: m/eo=484.0.

reactant | cis-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | NC[C@H]1C[C@H](C1)N1C=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C24H25N5O
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | cis-N-{3-[4-Amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-2,2-dimethyl-propionamide | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@H]2C[C@H](C2)CNC(C(C)(C)C)=O | C29H33N5O2
